* TB[pam4] .op/sp S21+S11 sweep drive=msb (ngspice-45)
Vcc vcc 0 DC 4
Vcasc vcasc 0 DC 3.25
Vcmb vcmb 0 DC 1.9
Vblsb blsb 0 DC 16
Vbmsb bmsb 0 DC 16
XDUT lsbp lsbn msbp msbn outp outn vcc vcasc vcmb blsb bmsb pam4drv_pam4
Vlp outp vcc DC 0 AC 0 portnum 3 z0 50
Vln outn vcc DC 0 AC 0 portnum 4 z0 50
Vslsbp slsbp 0 DC 1.9
Vslsbn slsbn 0 DC 1.9
Rslsbp slsbp lsbp 50
Rslsbn slsbn lsbn 50
Vsmsbp msbp 0 DC 1.9 AC 1 portnum 1 z0 50
Vsmsbn msbn 0 DC 1.9 AC 1 portnum 2 z0 50
* DUT: pam4drv_pam4 — 1 LSB cell(s) + 2 MSB cell(s), npn13G2 Nx=3
.subckt pam4drv_pam4 lsbp lsbn msbp msbn outp outn vcc vcasc vcmb blsb bmsb
* --- cell L0 ---
XQ1L0 c1L0 lsbp e1L0 0 npn13G2 Nx=3
XQ2L0 c2L0 lsbn e2L0 0 npn13G2 Nx=3
XQ3L0 outp vcasc c1L0 0 npn13G2 Nx=3
XQ4L0 outn vcasc c2L0 0 npn13G2 Nx=3
RE1L0 e1L0 tlsb0 2.5
RE2L0 e2L0 tlsb0 2.5
CdegL0 e1L0 e2L0 20f
GtailL0 tlsb0 0 blsb 0 1m

* --- cell M0 ---
XQ1M0 c1M0 msbp e1M0 0 npn13G2 Nx=3
XQ2M0 c2M0 msbn e2M0 0 npn13G2 Nx=3
XQ3M0 outp vcasc c1M0 0 npn13G2 Nx=3
XQ4M0 outn vcasc c2M0 0 npn13G2 Nx=3
RE1M0 e1M0 tmsb0 2.5
RE2M0 e2M0 tmsb0 2.5
CdegM0 e1M0 e2M0 20f
GtailM0 tmsb0 0 bmsb 0 1m

* --- cell M1 ---
XQ1M1 c1M1 msbp e1M1 0 npn13G2 Nx=3
XQ2M1 c2M1 msbn e2M1 0 npn13G2 Nx=3
XQ3M1 outp vcasc c1M1 0 npn13G2 Nx=3
XQ4M1 outn vcasc c2M1 0 npn13G2 Nx=3
RE1M1 e1M1 tmsb1 2.5
RE2M1 e2M1 tmsb1 2.5
CdegM1 e1M1 e2M1 20f
GtailM1 tmsb1 0 bmsb 0 1m

Rcp outp vcc 50
Rcn outn vcc 50
Rblsbp lsbp vcmb 50
Rblsbn lsbn vcmb 50
Rbmsbp msbp vcmb 50
Rbmsbn msbn vcmb 50
.ends pam4drv_pam4

.lib "cornerHBT.lib" hbt_typ
.options gmin=1e-12 reltol=1e-3
.control
op
print v(outp) v(outn) i(Vcc)
sp dec 100 1e+08 1e+11
let s21db = db(0.5*(S_3_1 - S_3_2 - S_4_1 + S_4_2))
let s11db = db(0.5*(S_1_1 - S_1_2 - S_2_1 + S_2_2))
let vp = 0.5*(S_3_1 - S_3_2)
let vn = 0.5*(S_4_1 - S_4_2)
let gpdb = db(vp)
let gndb = db(vn)
let php = ph(vp)*180/pi
let phn = ph(vn)*180/pi
let cmdb = db(mag(vp+vn)+1e-15)
let ddb = db(vp-vn)
wrdata balance.csv gpdb gndb php phn cmdb ddb
.endc
.GLOBAL GND
.end
